US09371319B2
Preparation 149: 6-Bromo-1-(methylsulfonyl)-2-(1-(2,2,2-trifluoroethyl)-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine
4-Ethynyl-1-(2,2,2-trifluoroethyl)-1H-pyrazole (Preparation 148, 326 mg 1.87 mmole) was dissolved in DMF (4.9 mL) and N-(2-bromo-5-iodopyridin-4-yl)methanesulfonamide (Preparation 8, 565 mg 1.50 mmole) was added. To the solution was added triethylamine (0.91 mL, 655 mg 6.5 mmole) and copper(I) iodide (10 mg 0.052 mmole). The reaction was sealed and flushed with nitrogen. Bis(triphenylphosphine)palladium dichloride (37 mg 0.052 mmole) was added and the reaction was again flushed with nitrogen, then heated at 60° C. for 110 minutes. The reaction was cooled and added to water (50 ml). The reaction were extracted with ethyl acetate thrice (3×20 ml). The combined organic extracts were washed with water (3×20 mL) and brine, dried and concentrated in vacuo. The residue was purified using column chromatography eluting with 100% dichloromethane, 5% ethyl acetate in dichloromethane to 10% ethyl acetate in dichloromethane to 20% ethyl acetate in dichloromethane to 30% ethyl acetate in dichloromethane to afford the title compound (300 mg, 47%). 1H-NMR (CDCl3, 500 MHz): δ 2.98 (s, 3H), 4.80 (q, J=8.20 Hz, 2H), 6.76 (d, J=0.95 Hz, 1H), 7.84 (d, J=0.63 Hz, 1H), 7.94 (s, 1H), 8.25 (t, J=0.95 Hz, 1H), 8.67 (d, J=0.95 Hz, 1H). 19F-NMR (CDCl3, 470.385 MHz): −71.56.

reactant | 4-Ethynyl-1-(2,2,2-trifluoroethyl)-1H-pyrazole | 1.87 mmole, 326 mg | C(#C)C=1C=NN(C1)CC(F)(F)F | C7H5F3N2
reactant | N-(2-bromo-5-iodopyridin-4-yl)methanesulfonamide | 1.50 mmole, 565 mg | BrC1=NC=C(C(=C1)NS(=O)(=O)C)I | C6H6BrIN2O2S
reactant | triethylamine | 6.5 mmole, 0.91 mL, 655 mg | C(C)N(CC)CC | C6H15N
solvent | DMF | 4.9 mL | CN(C)C=O | C3H7NO
catalyst | copper(I) iodide | 0.052 mmole, 10 mg | [Cu]I
catalyst | Bis(triphenylphosphine)palladium dichloride | 0.052 mmole, 37 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-Bromo-1-(methylsulfonyl)-2-(1-(2,2,2-trifluoroethyl)-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine | 300 mg, 47% | BrC1=CC2=C(C=N1)C=C(N2S(=O)(=O)C)C=2C=NN(C2)CC(F)(F)F | C13H10BrF3N4O2S
